US04552977
208 parts of 50% sodium hydroxide solution are added portionwise at about 90° C. and at a reduced pressure of 270 mbar to a solution of 255 parts of 4-(2',4'-dichlorophenoxy)-phenol and 132 parts of 2-chloropropionic acid in 1,200 parts of xylene. By distilling off the water present in the reaction mixture, the reaction temperature is maintained at 90° C. The addition being complete, stirring is continued for 15 minutes at this temperature, subsequently the batch is brought to normal pressure. 400 Parts of water are then added, and stirring is continued for 10 minutes at 85° C. The batch is subsequently acidified at this temperature with 120 parts of phosphoric acid, and stirring is continued for 10 minutes. After elimination of the water phase via a separating funnel, xylene is distilled off under a pressure of 80 mbar, and the solids are dried at 60° C. and 250 mbar. 327 Parts of 2-[4'-(2,4-dichlorophenoxy)-phenoxy]-propionic acid are obtained. The content of pure final product is 99.5%, corresponding to a yield of 99.5% of theory. The residual amount of 4-(2',4'-dichlorophenoxy)-phenol is 0.3%.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-(2',4'-dichlorophenoxy)-phenol | ClC1=C(OC2=CC=C(C=C2)O)C=CC(=C1)Cl | C12H8Cl2O2
reactant | 2-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[4'-(2,4-dichlorophenoxy)-phenoxy]-propionic acid | ClC1=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=CC(=C1)Cl | C15H12Cl2O4
